US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 4-(3-hexyl-ureido)-benzylamide
4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)aniiino]-N-(4-{[(hexylamino)carbonyl]amino}benzyl)-1-piperidinecarboxamide (0.143 g, 0.159 mmol) was reacted according to Procedure H (eluant: 10:1 going to 5:1 chloroform-methanol containing 2% triethylamine) to give the title compound (0.077 g, 0.12 mmol).

reactant | 4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)aniiino]-N-(4-{[(hexylamino)carbonyl]amino}benzyl)-1-piperidinecarboxamide | 0.159 mmol, 0.143 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)NCC3=CC=C(C=C3)NC(=O)NCCCCCC)C=C2)O)C=C1 | C53H70N6O5Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 4-(3-hexyl-ureido)-benzylamide | 0.12 mmol, 0.077 g | C(CCCCC)NC(NC1=CC=C(CNC(=O)N2CCC(CC2)NC2=CC=C(C=C2)CCNC[C@@H](COC2=CC=C(C=C2)O)O)C=C1)=O | C37H52N6O5
